US04298739
1.6 Grams of 6-hydroxycarbostyril, 1.4 g of K2CO3, 1.6 g of sodium iodide and 2.5 g of N-methyl-N-(4-chlorobutyryl)cyclohexylamine are added to 30 ml of DMF and the mixture is agitated at 70° to 80° C. for 4 hours. After the reaction, the reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out and washed with water. The resultant crude crystals are recrystallized from chloroformethanol to obtain 1.5 g of 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]carbostyril in the form of colorless needle-like crystals with melting point of 184.5°-186° C.

reactant | 6-hydroxycarbostyril | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium iodide | 1.6 g | [I-].[Na+]
reactant | N-methyl-N-(4-chlorobutyryl)cyclohexylamine | 2.5 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]carbostyril | 1.5 g | CN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C20H26N2O3
